US05464840
Dissolved 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine (0.33 g, 1.0 mmol) in 50 mL of absolute ethanol, and added 0.15 g of 10% palladium on carbon catalyst. Hydrogenated on a Paar shaker at 60 psi of hydrogen pressure for 24 hours. Filtered catalyst, and evaporated filtrate. Crystallized product from dichloromethane-ether to give 26 mg (8% yield) of 4-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methylpiperidine as a tan solid.

reactant | 4-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine | 1.0 mmol, 0.33 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CCN(CC2)C | C24H27N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
product | 4-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methylpiperidine | 26 mg, 8% yield | C(CC)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2CCN(CC2)C | C24H31N
